US08648066B2
To a suspension of acetamidine hydrochloride (0.54 g, 5.71 mmol) in methanol (8 mL) was added a 30% solution of sodium methoxide in methanol (1.1 mL, 5.7 mmol), and the resulting solution was stirred at room temperature for 45 min. Then, a solution of methyl 2-(4-fluorobenzyl)-3-oxobutanoate (0.80 g, 3.57 mmol) in methanol (3 mL) was added dropwise, and the resulting mixture was stirred at room temperature for 22 h. Water (100 mL) was added, and the mixture was extracted with chloroform (4×50 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated to provide 5-(4-fluorobenzyl)-2,6-dimethylpyrimidin-4-ol (0.74 g, 89% yield) as a colorless solid. 1H NMR (400 MHz, methanol-d4): 7.21 (m, 2H), 6.96 (m, 2H), 3.84 (s, 2H), 2.35 (s, 3H), 2.25 (s, 3H); MS (EI) for C13H13FN2O: 233 (MH+).

reactant | acetamidine hydrochloride | 5.71 mmol, 0.54 g | Cl.C(C)(=N)N
reactant | sodium methoxide | C[O-].[Na+]
reactant | methyl 2-(4-fluorobenzyl)-3-oxobutanoate | 3.57 mmol, 0.80 g | FC1=CC=C(CC(C(=O)OC)C(C)=O)C=C1 | C12H13FO3
reactant | Water | 100 mL | O | H2O
solvent | methanol | 8 mL | CO | CH4O
solvent | methanol | 3 mL | CO | CH4O
solvent | methanol | 5.7 mmol, 1.1 mL | CO | CH4O
product | 5-(4-fluorobenzyl)-2,6-dimethylpyrimidin-4-ol | 0.74 g, 89% yield | FC1=CC=C(CC=2C(=NC(=NC2C)C)O)C=C1 | C13H13FN2O
